### PR TITLE
[Merged by Bors] - chore(Probability/ProbabilityMassFunction): golf entire `support_bindOnSupport` using `ext; simp`

### PR DESCRIPTION
**Pull request by euprunin**
---
<details>
<summary>Show trace profiling of <code>support_bindOnSupport</code>: 85 ms before, 27 ms after  🎉</summary>

### Trace profiling of `support_bindOnSupport` before PR 31534
```diff
diff --git a/Mathlib/Probability/ProbabilityMassFunction/Monad.lean b/Mathlib/Probability/ProbabilityMassFunction/Monad.lean
index 876540f3fb..120616c4bd 100644
--- a/Mathlib/Probability/ProbabilityMassFunction/Monad.lean
+++ b/Mathlib/Probability/ProbabilityMassFunction/Monad.lean
@@ -198,6 +198,7 @@ variable {p : PMF α} (f : ∀ a ∈ p.support, PMF β)
 theorem bindOnSupport_apply (b : β) :
     p.bindOnSupport f b = ∑' a, p a * if h : p a = 0 then 0 else f a h b := rfl
 
+set_option trace.profiler true in
 @[simp]
 theorem support_bindOnSupport :
     (p.bindOnSupport f).support = ⋃ (a : α) (h : a ∈ p.support), (f a h).support := by
```
```
ℹ [1636/1636] Built Mathlib.Probability.ProbabilityMassFunction.Monad (1.7s)
info: Mathlib/Probability/ProbabilityMassFunction/Monad.lean:202:0: [Elab.async] [0.085915] elaborating proof of PMF.support_bindOnSupport
  [Elab.definition.value] [0.084841] PMF.support_bindOnSupport
    [Elab.step] [0.084554] 
          refine Set.ext fun b => ?_
          simp only [ENNReal.tsum_eq_zero, not_or, mem_support_iff, bindOnSupport_apply, Ne, not_forall, mul_eq_zero,
            Set.mem_iUnion]
          exact
            ⟨fun hb =>
              let ⟨a, ⟨ha, ha'⟩⟩ := hb
              ⟨a, ha, by simpa [ha] using ha'⟩,
              fun hb =>
              let ⟨a, ha, ha'⟩ := hb
              ⟨a, ⟨ha, by simpa [(mem_support_iff _ a).1 ha] using ha'⟩⟩⟩
      [Elab.step] [0.084547] 
            refine Set.ext fun b => ?_
            simp only [ENNReal.tsum_eq_zero, not_or, mem_support_iff, bindOnSupport_apply, Ne, not_forall, mul_eq_zero,
              Set.mem_iUnion]
            exact
              ⟨fun hb =>
                let ⟨a, ⟨ha, ha'⟩⟩ := hb
                ⟨a, ha, by simpa [ha] using ha'⟩,
                fun hb =>
                let ⟨a, ha, ha'⟩ := hb
                ⟨a, ⟨ha, by simpa [(mem_support_iff _ a).1 ha] using ha'⟩⟩⟩
        [Elab.step] [0.018660] simp only [ENNReal.tsum_eq_zero, not_or, mem_support_iff, bindOnSupport_apply, Ne,
              not_forall, mul_eq_zero, Set.mem_iUnion]
        [Elab.step] [0.065626] exact
              ⟨fun hb =>
                let ⟨a, ⟨ha, ha'⟩⟩ := hb
                ⟨a, ha, by simpa [ha] using ha'⟩,
                fun hb =>
                let ⟨a, ha, ha'⟩ := hb
                ⟨a, ⟨ha, by simpa [(mem_support_iff _ a).1 ha] using ha'⟩⟩⟩
          [Elab.step] [0.016407] expected type: (∃ x, ¬p x = 0 ∧ ¬(if h : p x = 0 then 0 else (f x h) b) = 0) ↔
                ∃ i, ∃ (h : ¬p i = 0), ¬(f i ⋯) b = 0, term
              ⟨fun hb =>
                let ⟨a, ⟨ha, ha'⟩⟩ := hb
                ⟨a, ha, by simpa [ha] using ha'⟩,
                fun hb =>
                let ⟨a, ha, ha'⟩ := hb
                ⟨a, ⟨ha, by simpa [(mem_support_iff _ a).1 ha] using ha'⟩⟩⟩
            [Elab.step] [0.016383] expected type: (∃ x, ¬p x = 0 ∧ ¬(if h : p x = 0 then 0 else (f x h) b) = 0) ↔
                  ∃ i, ∃ (h : ¬p i = 0), ¬(f i ⋯) b = 0, term
                Iff.intro✝
                  (fun hb =>
                    let ⟨a, ⟨ha, ha'⟩⟩ := hb
                    ⟨a, ha, by simpa [ha] using ha'⟩)
                  fun hb =>
                  let ⟨a, ha, ha'⟩ := hb
                  ⟨a, ⟨ha, by simpa [(mem_support_iff _ a).1 ha] using ha'⟩⟩
          [Elab.step] [0.025217] simpa [ha] using ha'
            [Elab.step] [0.025211] simpa [ha] using ha'
              [Elab.step] [0.025204] simpa [ha] using ha'
          [Elab.step] [0.023087] simpa [(mem_support_iff _ a).1 ha] using ha'
            [Elab.step] [0.023082] simpa [(mem_support_iff _ a).1 ha] using ha'
              [Elab.step] [0.023076] simpa [(mem_support_iff _ a).1 ha] using ha'
Build completed successfully (1636 jobs).
```

### Trace profiling of `support_bindOnSupport` after PR 31534
```diff
diff --git a/Mathlib/Probability/ProbabilityMassFunction/Monad.lean b/Mathlib/Probability/ProbabilityMassFunction/Monad.lean
index 876540f3fb..eac77ce041 100644
--- a/Mathlib/Probability/ProbabilityMassFunction/Monad.lean
+++ b/Mathlib/Probability/ProbabilityMassFunction/Monad.lean
@@ -198,19 +198,14 @@ variable {p : PMF α} (f : ∀ a ∈ p.support, PMF β)
 theorem bindOnSupport_apply (b : β) :
     p.bindOnSupport f b = ∑' a, p a * if h : p a = 0 then 0 else f a h b := rfl
 
+set_option trace.profiler true in
 @[simp]
 theorem support_bindOnSupport :
     (p.bindOnSupport f).support = ⋃ (a : α) (h : a ∈ p.support), (f a h).support := by
-  refine Set.ext fun b => ?_
-  simp only [ENNReal.tsum_eq_zero, not_or, mem_support_iff, bindOnSupport_apply, Ne, not_forall,
-    mul_eq_zero, Set.mem_iUnion]
-  exact
-    ⟨fun hb =>
-      let ⟨a, ⟨ha, ha'⟩⟩ := hb
-      ⟨a, ha, by simpa [ha] using ha'⟩,
-      fun hb =>
-      let ⟨a, ha, ha'⟩ := hb
-      ⟨a, ⟨ha, by simpa [(mem_support_iff _ a).1 ha] using ha'⟩⟩⟩
+  ext
+  simp only [mem_support_iff, bindOnSupport_apply, ne_eq, ENNReal.tsum_eq_zero,
+    dite_eq_left_iff, mul_eq_zero, not_forall, not_or, and_exists_self,
+    Set.mem_iUnion]
 
 theorem mem_support_bindOnSupport_iff (b : β) :
     b ∈ (p.bindOnSupport f).support ↔ ∃ (a : α) (h : a ∈ p.support), b ∈ (f a h).support := by
```
```
ℹ [1636/1636] Built Mathlib.Probability.ProbabilityMassFunction.Monad (1.6s)
info: Mathlib/Probability/ProbabilityMassFunction/Monad.lean:202:0: [Elab.async] [0.027228] elaborating proof of PMF.support_bindOnSupport
  [Elab.definition.value] [0.026530] PMF.support_bindOnSupport
    [Elab.step] [0.026091] 
          ext
          simp only [mem_support_iff, bindOnSupport_apply, ne_eq, ENNReal.tsum_eq_zero, dite_eq_left_iff, mul_eq_zero,
            not_forall, not_or, and_exists_self, Set.mem_iUnion]
      [Elab.step] [0.026083] 
            ext
            simp only [mem_support_iff, bindOnSupport_apply, ne_eq, ENNReal.tsum_eq_zero, dite_eq_left_iff, mul_eq_zero,
              not_forall, not_or, and_exists_self, Set.mem_iUnion]
        [Elab.step] [0.025849] simp only [mem_support_iff, bindOnSupport_apply, ne_eq, ENNReal.tsum_eq_zero,
              dite_eq_left_iff, mul_eq_zero, not_forall, not_or, and_exists_self, Set.mem_iUnion]
Build completed successfully (1636 jobs).
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/ProbabilityMassFunction/Monad.lean [hunk 1]
```diff
@@ -201,16 +201,10 @@ theorem bindOnSupport_apply (b : β) :
...
-    mul_eq_zero, Set.mem_iUnion]
-  exact
-    ⟨fun hb =>
-      let ⟨a, ⟨ha, ha'⟩⟩ := hb
-      ⟨a, ha, by simpa [ha] using ha'⟩,
-      fun hb =>
-      let ⟨a, ha, ha'⟩ := hb
-      ⟨a, ⟨ha, by simpa [(mem_support_iff _ a).1 ha] using ha'⟩⟩⟩
+  ext
+  simp only [mem_support_iff, bindOnSupport_apply, ne_eq, ENNReal.tsum_eq_zero,
```
Comment (grunweg) [inline Mathlib/Probability/ProbabilityMassFunction/Monad.lean:206]:
```suggestion
  -- `simp` suffices; squeezed for performance
  simp only [mem_support_iff, bindOnSupport_apply, ne_eq, ENNReal.tsum_eq_zero,
```

**Review by grunweg — COMMENTED** [review]
Thank!
bors d+

File: Mathlib/Probability/ProbabilityMassFunction/Monad.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/Probability/ProbabilityMassFunction/Monad.lean:206]: Thanks! Now added.
